data/rdb19/train.csv
rxn,smiles,ea
759,[C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])([C:23]([H:24])[H:25])[H:31])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])=[C:23]([H:24])[H:25])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([H:8])([H:9])[H:10].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])([H:12])[H:31],85.0270980327623
1845,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20][c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:28])([H:11])[H:12])([H:8])([H:9])[H:10],30.76300163078122
1182,[C:14]([C:15]([C:16](=[C:17]([H:24])[H:25])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:14]([C:15]([C:16](=[C:17]([H:24])[H:25])[H:23])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10],19.510205369617324
2061,[C:11]([C:12]([C:13]([C:14]([H:23])([H:24])[H:25])[C:15](=[O:16])[O:17][H:26])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:15](=[O:16])=[O:17].[N:1]([C:2]([O:3][H:26])([C:4](=[C:5]([H:9])[H:10])[H:8])[C:13]([C:12]([C:11]([H:18])([H:19])[H:20])([H:21])[H:22])[C:14]([H:23])([H:24])[H:25])([H:6])[H:7],47.07594773784513
4299,[C:16]([C:17]([C:18]([H:19])[H:20])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[H:20])[c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])([H:27])([H:28])[H:29].[C:1]([H:8])([H:9])([H:10])[H:30].[O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15],65.66257021098863
2036,[C:11]([C:12]([C:13]([C:14]([H:24])([H:25])[H:26])[C:15](=[O:16])[O:17][C:18]([H:27])([H:28])[H:29])([H:22])[H:23])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[H:8][C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([H:22])[H:23])([C:14]([H:24])([H:25])[H:26])[C:15](=[O:16])[O:17][C:18]([H:27])([H:28])[H:29].[N:1]([C:2](=[O:3])[C:4]=[C:5]([H:9])[H:10])([H:6])[H:7],30.64902960357722
3919,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3](=[C:4][H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11][C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28],28.13533403846668
4253,[C:16]([H:17])([H:18])[H:19].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])[H:10].[H:9][C:16]([H:17])([H:18])[H:19],19.82704934626236
4530,[C:13]([C:14]([C:15]([H:16])[H:17])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]=[O:5])([H:7])([H:8])[H:9].[O:6]([H:12])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:16])[H:17],48.19800909340847
4146,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[C:21]([C:20]([H:26])([H:27])[H:28])([O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[C:21](=[O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([H:26])([H:27])[H:28],8.153729160374496
535,[C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15].[O:1][H:2]>>[C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:18])([H:16])[H:17].[O:1]([H:2])[C:3]([H:13])([H:14])[H:15],46.01151985197794
5531,[C:13]([C:14]([C:15]([H:16])[H:17])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[O:4][C:5]=[C:6]([H:11])[H:12])([H:7])([H:8])[H:9].[H:10][C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:16])[H:17],25.88626195577672
